US06800651B2
To a mixture of 4-aminophenol (Aldrich; 1.0 equiv.) in benzene (1 M) was added 3-pyridenecarboxaldehyde (Aldrich; 1.0 equiv.). The flask was fitted with a Dean-Stark trap and heated to reflux overnight. (A solid mass formed on the bottom of the flask, which was difficult to break up). The reaction was cooled to ambient and concentrated in vacuo. The solid was taken up in methanol (0.2 M), cooled to 0° C., and treated with sodium borohydride (1.5 equiv.) in 4 portions. The cooling bath was removed and stirring continued for 2 hours. A small amount of was added to quench unreacted hydride. The reaction was concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The aqueous layer was back-extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude solid was recrystallized from hexanes/ethyl acetate to give N-(4-hydroxyphenyl)pyridin-3-ylmethylamine. 1H NMR (400 MHz, DMSO d6) 4.16 (2H, s), 6.41 (2H, m), 6.48 (2H, m), 7.28 (1H, ddd, J=0.73, 4.8, 7.7 Hz), 7.7 (1H, td, J=2.2, 7.3 Hz), 8.38 (1H, m), 8.39 (1H, s), 8.52 (1H, d, J=1.5 Hz).

reactant | 4-aminophenol | 1.0 equiv. | NC1=CC=C(C=C1)O | C6H7NO
reactant | 3-pyridenecarboxaldehyde | 1.0 equiv. | C1=CC(=CN=C1)C=O | C6H5NO
reactant | sodium borohydride | 1.5 equiv. | [BH4-].[Na+]
solvent | benzene | 1 M | C1=CC=CC=C1 | C6H6
product | N-(4-hydroxyphenyl)pyridin-3-ylmethylamine | OC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H12N2O
